US20010006969A1
2-Allylamino-4-(t-butylcarbamoyl)amino-6-nitroquinazoline
To 5 ml of a solution of 165 mg (0.67 mmol) of 2-allylamino-4-amino-6-nitroquinazoline in THF was added 17 mg (10.7 mmol) of sodium hydride. After the mixture was stirred under ice cooling for 0.5 hour, 76 mg (0.77 mmol) of t-butylisocyanate was added, followed by stirring for 1.5 hours at room temperature. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with chloroform (10 ml×3). After the organic layer was washed with brine and then dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by a silica gel chromatography to give 79 mg (yield: 34.2%) of the title compound.

reactant | 2-allylamino-4-amino-6-nitroquinazoline | 0.67 mmol, 165 mg | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)N)[N+](=O)[O-] | C11H11N5O2
reactant | sodium hydride | 10.7 mmol, 17 mg | [H-].[Na+]
reactant | t-butylisocyanate | 0.77 mmol, 76 mg | C(C)(C)(C)N=C=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-Allylamino-4-(t-butylcarbamoyl)amino-6-nitroquinazoline | 79 mg, yield: 34.2% | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NC(NC(C)(C)C)=O)[N+](=O)[O-] | C16H20N6O3
